US09422293B2
[2-Methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine
To a solution of 4-chloro-2-methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine (830 mg, 2.22 mmol) in n-BuOH (5 mL) was added 4-trifluoromethylaniline (0.4 mL, 3.30 mmol). The mixture was heated in the microwave at 160° C. for 30 min, then was cooled to rt, quenched with satd. aq. NaHCO3, and extracted with EtOAc. The combined organic layers were dried (MgSO4) and concentrated. The residue was purified (FCC) to give the title compound (950 mg, 86%). MS (ESI): mass calcd. for C22H19F6N5S, 499.13; m/z found, 500.1 [M+H]+. 1H NMR (CDCl3): 8.40-8.37 (m, 1H), 7.89-7.86 (m, 1H), 7.69 (d, J=8.6 Hz, 2H), 7.58 (d, J=9.1 Hz, 2H), 6.99-6.94 (m, 1H), 6.65 (s, 1H), 3.66-3.62 (m, 2H), 3.60-3.56 (m, 2H), 3.21-3.16 (m, 2H), 2.99-2.94 (m, 2H), 2.53 (s, 3H).

reactant | 4-chloro-2-methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine | 2.22 mmol, 830 mg | ClC1=NC(=NC=2CCN(CCC21)C2=NC=CC=C2C(F)(F)F)SC | C15H14ClF3N4S
reactant | 4-trifluoromethylaniline | 3.30 mmol, 0.4 mL | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | [2-Methylsulfanyl-7-(3-trifluoromethyl-pyridin-2-yl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepin-4-yl]-(4-trifluoromethyl-phenyl)-amine | 950 mg, 86% | CSC=1N=C(C2=C(CCN(CC2)C2=NC=CC=C2C(F)(F)F)N1)NC1=CC=C(C=C1)C(F)(F)F | C22H19F6N5S
